US04684655
(D) 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(2- propenyl)-2-thioxo-5-pyrimidinecarboxylic acid, methyl ester
1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(2-propenyl)-5-pyrimidinecarboxylic acid, methyl ester (1.0 g, 2.14 mmol) in 15 ml of dichloromethane under argon at room temperature was treated with trifluoroacetic acid (0.6 ml, 0.85 g, 7.7 mmole) and ethanethiol (0.4 ml, 0.33 g, 5.4 mmole). No change (tlc) occurred within 2 hours. Heating at reflux temperature, however, effected complete reaction in several hours.

reactant | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(2-propenyl)-5-pyrimidinecarboxylic acid, methyl ester | 2.14 mmol, 1.0 g | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])CC=C | C24H25N3O5S
reactant | trifluoroacetic acid | 7.7 mmole, 0.6 ml, 0.85 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanethiol | 5.4 mmole, 0.4 ml, 0.33 g | C(C)S | C2H6S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(2- propenyl)-2-thioxo-5-pyrimidinecarboxylic acid, methyl ester | CC1=C(C(N(C(N1)=S)CC=C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C16H17N3O4S
